US09216980B2
Step 1: 4-Bromo-2,6-diethylbenzonitrile
4-Bromo-2,6-diethylaniline (4.80 g, 21.0 mmol) was suspended in a mixture of water (25 mL) and concentrated hydrochloric acid (8.0 mL) then sonicated for 10 minutes. The resultant suspension was cooled to 0° C. and a solution of sodium nitrite (1.60 g, 23.1 mmol) in water (5 mL) was slowly added, maintaining the reaction temperature below 5° C. After 30 minutes, the reaction mixture was neutralised by the careful addition of sodium bicarbonate, then the resultant suspension was added in aliquots to a solution of copper (I) cyanide (2.26 g, 25.2 mmol) and potassium cyanide (3.43 g, 52.6 mmol) in water (25 mL) at 70° C. After complete addition, heating at 70° C. was continued for 1 h then the reaction mixture was cooled to ambient temperature. Water and DCM were added then the organic phase was collected, dried over anhydrous sodium sulfate and concentrated in vacuo to afford a brown residue that was purified by flash chromatography (silica, 80 g column, ISCO, 0-10% ethyl acetate in cyclohexane) to afford the title compound as an off-white solid (4.43 g, 88%). 1H NMR (DMSO-D6, 300 MHz): 7.58 (s, 2H), 2.78 (q, J=7.6 Hz, 4H), 1.21 (t, J=7.6 Hz, 6H).

reactant | 4-Bromo-2,6-diethylaniline | 21.0 mmol, 4.80 g | BrC1=CC(=C(N)C(=C1)CC)CC | C10H14BrN
reactant | hydrochloric acid | 8.0 mL | Cl | ClH
reactant | sodium nitrite | 23.1 mmol, 1.60 g | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | copper (I) cyanide | 25.2 mmol, 2.26 g | [Cu]C#N
reactant | potassium cyanide | 52.6 mmol, 3.43 g | [C-]#N.[K+]
solvent | water | 25 mL | O | H2O
solvent | water | 5 mL | O | H2O
solvent | water | 25 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-Bromo-2,6-diethylbenzonitrile | 4.43 g, 88% | BrC1=CC(=C(C#N)C(=C1)CC)CC | C11H12BrN
